US07816557B2
Racemic 3-(4-{4,4,4-trifluoro-1-[5-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yloxy]-butyl}-benzoylamino)-propionic acid
The title compound is prepared in a manner substantially similar to Example 1 starting from 3-[4-(4,4,4-trifluoro-1-hydroxy-butyl)-benzoylamino]-propionic acid methyl ester and 5-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ol (Preparation 34). MS: 553.3 [M−H]−.

reactant | 3-[4-(4,4,4-trifluoro-1-hydroxy-butyl)-benzoylamino]-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCC(F)(F)F)O)=O)=O | C15H18F3NO4
reactant | 5-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ol | CC=1C=C(C=NC1C1=CC=C(C=C1)C(F)(F)F)O | C13H10F3NO
product | Racemic 3-(4-{4,4,4-trifluoro-1-[5-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yloxy]-butyl}-benzoylamino)-propionic acid | FC(CCC(OC=1C=NC(=C(C1)C)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C(=O)NCCC(=O)O)C=C1)(F)F | C27H24F6N2O4
